US08703742B2
7-Ethoxy-4-methyl-3-(nitromethyl)benzo[c][1,2]oxaborol-1(3H)-ol
A mixture of 4-bromo-7-ethoxy-3-(nitromethyl)benzo[c][1,2]oxaborol-1(3H)-ol (200 mg, 0.63 mmol), tetramethylstannane (341.7 mg, 1.90 mmol) and Pd(PPh3)4 (Cat. 20 mg) in DMF (35 mL) was stirred overnight at 90° C. under N2 protection. The reaction was quenched by adding ice-water and the resulting mixture was extracted with ethyl acetate (3×30 mL). The combined extracts were dried over anhydrous Na2SO4 and concentrated in vacuo. The residue was purified by prep-TLC to give the product (72 mg, yield 45.3%). 1H NMR (400 MHz, DMSO-d6) δ 9.00 (s, 1H), 7.23-7.21 (d, 1H), 6.83-6.81 (d, 1H), 5.77-5.75 (m, 1H), 5.27-5.24 (m, 1H), 4.50-4.44 (m, 1H), 4.08-4.03 (m, 2H), 2.25 (s, 3H), 1.33-1.29 (t, 3H).

reactant | 4-bromo-7-ethoxy-3-(nitromethyl)benzo[c][1,2]oxaborol-1(3H)-ol | 0.63 mmol, 200 mg | BrC1=CC=C(C=2B(OC(C21)C[N+](=O)[O-])O)OCC | C10H11BBrNO5
reactant | tetramethylstannane | 1.90 mmol, 341.7 mg | C[Sn](C)(C)C
solvent | DMF | 35 mL | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)4 | 20 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 7-Ethoxy-4-methyl-3-(nitromethyl)benzo[c][1,2]oxaborol-1(3H)-ol | 72 mg, yield 45.3% | C(C)OC1=CC=C(C2=C1B(OC2C[N+](=O)[O-])O)C | C11H14BNO5
